US07459554B2
cis-2-{3-[8-Amino-1-(3-benzyloxyphenyl)imidazo[1,5-a]pyrazin-3-yl]cyclobutoxy}ethanol:
cis-tert-Butyl ({3-[8-amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}oxy)acetate (0.4 mmol, 200 mg) was dissolved in THF (2 mL) and charged with LiAlH4 (4 mmol, 4 mL, 1 M in THF) at −78° C., and stirred under rt for 1 h before the reaction mixture was heated to 50° C. for 16 h. Mixture was charged with EtOAc and allowed to stir at rt for 10 min, followed by an addition of Na2SO4.10H2O. The reaction mixture was passed through a pad of Celite and concentrated under reduced pressure. The crude oil was purified by silica gel column chromatography (Jones Flashmaster, 20 g/70 mL cartridge, eluting with 1-3% MeOH in DCM), yielding the title compound as a colorless oil; NMR 1H NMR (400 MHz, CD3OD) δ 7.47(td, 2H), 7.43-7.42 (m, 1H), 7.39-7.36 (m, 2H), 7.33-7.29 (m, 1H), 7.25 (t, J=2.0 Hz, 1H), 7.19 (td, J=1.2 Hz, 8 Hz, 1H), 7.13 (dd, J=2.4 Hz, 8.0 Hz, 1H), 6.98 (d, J=4.8 Hz, 1H), 5.17 (s, 2H), 4.16 (p, J=7.2 Hz, 1H), 3.66-3.65 (m, 2H), 3.51 (t, J=2.4 Hz, 2H), 3.50-3.43 (m, 1H), 2.88-2.81 (m, 2H), 2.46-2.38 (m, 2H). MS (ES+): m/z 431 (100) [MH+].

reactant | cis-tert-Butyl ({3-[8-amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}oxy)acetate | 0.4 mmol, 200 mg | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@H]2C[C@H](C2)OCC(=O)OC(C)(C)C | C29H32N4O4
reactant | LiAlH4 | 4 mmol, 1 M, 4 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | cis-2-{3-[8-Amino-1-(3-benzyloxyphenyl)imidazo[1,5-a]pyrazin-3-yl]cyclobutoxy}ethanol | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@H]2C[C@H](C2)OCCO | C25H26N4O3
